US04587342
A. 5-(7-Allyl-8-hydroxy-5-quinolylmethyl)-2,4-diaminopyrimidine
7-Allyl-8-hydroxyquinoline [H. Fiedler, Arc. Pharm., 297, 108 (1964)] (33.0 g, 0.227 mol), 2,4-diamino-5-hydroxymethylpyrimidine (32.97 g, 0.227 mole), glacial acetic acid (300 mL) and concentrated HCl (31.5 mL) were refluxed for 5 hr. The resulting precipitate was filtered off and then slurried with H2O (250 mL) and sufficient NH4OH to give a pH of 8. The undissolved solid was filtered off, washed with H2O and dried to give the title compound as yellow powder (19.7 g, 28%), mp 229°-231° dec., structure confirmed by NMR. Anal. Calcd for C17H17N5O: C, 66.43; H, 5.58; N, 22.79. Found: C, 66.41; H, 5.59; N, 22.78. Additional product (5.0 g, 7%) was obtained by evaporation of filtrates and chromatography to separate unreacted starting materials.

reactant | 7-Allyl-8-hydroxyquinoline | 0.227 mol, 33.0 g | C(C=C)C1=CC=C2C=CC=NC2=C1O | C12H11NO
reactant | 2,4-diamino-5-hydroxymethylpyrimidine | 0.227 mole, 32.97 g | NC1=NC=C(C(=N1)N)CO | C5H8N4O
reactant | HCl | 31.5 mL | Cl | ClH
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
product | 5-(7-Allyl-8-hydroxy-5-quinolylmethyl)-2,4-diaminopyrimidine | 19.7 g, 28% | C(C=C)C1=CC(=C2C=CC=NC2=C1O)CC=1C(=NC(=NC1)N)N | C17H17N5O
